US04590209
(3) Preparation of 4-methoxybutyryl carnitine
4.5 g (0.02 moles) of carnitine hydrochloride were dissolved in 6 ml of trifluoroacetic acid. To this solution 4-methoxybutyryl chloride was added. The resulting mixture was kept under stirring at room temperature for 16 days. Subsequently tert-butyl methyl ether was added to the mixture. An oil precipitated which was treated with anhydrous acetonitrile in order to remove the undesired carnitine. To the acetonitrile solution tert-butyl methyl ether was added and 4-methoxybutyryl carnitine precipitated. Yield 50%.

reactant | carnitine hydrochloride | 0.02 moles, 4.5 g | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | 4-methoxybutyryl chloride | COCCCC(=O)Cl | C5H9ClO2
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-methoxybutyryl carnitine | Yield 50% | COCCCC(=O)C(O)(C[N+](C)(C)C)CC([O-])=O | C12H23NO5
